US04122090
When 5 is stirred with Z-Val-OH and pyridine in methylene chloride (24 hours, 20° C.), the carbonyl band at 1,888 cm-1 disappears and the polymeric activated ester 6a forms. A resin which has an identical IR spectrum can also be obtained by reacting 4 with Z-Val-OH and dicyclohexylcarbodiimide (DCC) in DMF. The dicyclohexylurea is removed by eluting with methanol. In order to determine the content of activated aminoacid ester, the resin 6a was reacted with benzylamine. From the amount of Z-L-Val-benzylamide formed, the proportion of active groups introduced is 0.15 mmole of Z-Val/g of resin. If the resin is reacted with Val-OMe in methylene chloride for 130 minutes at 20° C., the Z-dipeptide ester is again formed in a yield of 0.15 mmole/g of resin.

reactant | Z-Val-OH | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | Z-L-Val benzylamide | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1.C(C1=CC=CC=C1)[NH-] | InChI=1S/C13H17NO4.C7H8N/c1-9(2)11(12(15)16)14-13(17)18-8-10-6-4-3-5-7-10;8-6-7-4-2-1-3-5-7/h3-7,9,11H,8H2,1-2H3,(H,14,17)(H,15,16);1-5,8H,6H2/q;-1/t11-;/m0./s1
